US07488823B2
Step C: [1-(3-Fluoro-benzyl)-1 H-indazol-5-yl]-(6-iodo-quinazolin-4-yl)-amine hydrochloride
Follow general procedure from Example 1, step E. 4-chloro-6-iodoquinazoline (1.18 g, 4.06 mmol) is mixed with 1-(3-Fluoro-benzyl)-1H-indazol-5-ylamine (1.09 g, 4.52 mmol), and a mixture of DCE (10 ml) and t-BuOH (10 ml) is added. The mixture is heated at 90° C. (oil bath temperature) for 8 hours. At 5 hours of heating LC/MS reveals substantial amount of product. Yield is 1.35 g (56%).

reactant | 4-chloro-6-iodoquinazoline | 4.06 mmol, 1.18 g | ClC1=NC=NC2=CC=C(C=C12)I | C8H4ClIN2
reactant | 1-(3-Fluoro-benzyl)-1H-indazol-5-ylamine | 4.52 mmol, 1.09 g | FC=1C=C(CN2N=CC3=CC(=CC=C23)N)C=CC1 | C14H12FN3
reactant | DCE | 10 ml | ClCCCl | C2H4Cl2
solvent | t-BuOH | 10 ml | CC(C)(C)O | C4H10O
product | [1-(3-Fluoro-benzyl)-1 H-indazol-5-yl]-(6-iodo-quinazolin-4-yl)-amine hydrochloride | Cl.FC=1C=C(CN2N=CC3=CC(=CC=C23)NC2=NC=NC3=CC=C(C=C23)I)C=CC1 | InChI=1S/C22H15FIN5.ClH/c23-16-3-1-2-14(8-16)12-29-21-7-5-18(9-15(21)11-27-29)28-22-19-10-17(24)4-6-20(19)25-13-26-22;/h1-11,13H,12H2,(H,25,26,28);1H
